US05939451
0.81 g (0.002 mol) of 4-amino-N-(2,6-dibromo-pyridin-4-yl)-benzenesulfonamide was stirred in 35 ml of liquid methylamine in an autoclave at 130° C. for 44 hours. The methylamine was left to evaporate, the residue was dissolved in ethanol, treated with 2 g of silica gel, concentrated and the residue was chromatographed on silica gel, firstly with ethyl acetate/hexane 1:2, then with pure ethyl acetate. There was obtained 0.63 g (88%) of 4-amino-N-(2-bromo-6-methylamino-pyridin-4-yl)-benzenesulfonamide as a beige foam. 0.33 g (0.00092 mol) of this was dissolved in 10 ml of methanol, treated with 5 ml of 2M HCl in methanol, concentrated and again treated with 4 ml of methanol. The precipitate obtained was filtered off under suction, rinsed with a small amount of methanol and dried in a high vacuum. There was obtained 0.27 g (69%) of 4-amino-N-(2-bromo-6-methylamino-pyridin-4-yl)-benzenesulfonamide hydrochloride as white crystals; m.p.: 226-228° C. (dec.).

reactant | 4-amino-N-(2,6-dibromo-pyridin-4-yl)-benzenesulfonamide | 0.002 mol, 0.81 g | NC1=CC=C(C=C1)S(=O)(=O)NC1=CC(=NC(=C1)Br)Br | C11H9Br2N3O2S
reactant | methylamine | CN | CH5N
product | 4-amino-N-(2-bromo-6-methylamino-pyridin-4-yl)-benzenesulfonamide | 0.63 g, 88% | NC1=CC=C(C=C1)S(=O)(=O)NC1=CC(=NC(=C1)NC)Br | C12H13BrN4O2S
